US04604397
A mixture of 21.6 l of 47-49% hydrobromic acid and 2.27 kg of trans-9-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine hydrochloride is stirred and heated at 105°-110° for 2 hours. Most of the hydrobromic acid is then removed by distillation (125°/3 mmHg), a solution of 10.5 l of methanol and 9.5 l of water is added and the suspension heated to 75°. The hot mixture is cautiously treated with 2.2 l of 4N sodium hydroxide solution to pH 8, cooled to 10° and filtered. The collected solids are washed five times with 1 l of water each and dried (68°/3 mmHg) to yield trans-9-hydroxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine, m.p. 194°-196°.

reactant | hydrobromic acid | 21.6 l | Br | BrH
reactant | trans-9-methoxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine hydrochloride | 2.27 kg | Cl.COC=1C=CC2=C(C1)[C@@H]1[C@H](N(CCC1)CCC)CO2
product | trans-9-hydroxy-4-propyl-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine | OC=1C=CC2=C(C1)[C@@H]1[C@H](N(CCC1)CCC)CO2 | C15H21NO2
